US06087380
b) 4-Methylamino-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide
1.6 g (4.6 mMol) of 4-chloro-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide was mixed with 30 ml of 40% methylamine solution and stirred in a sealed flask for four hours at room temperature. Then the mixture was diluted with about 40 ml of water, the product precipitated was suction filtered, washed with water and dried. Yield: 1.5 g (95% of theory), C14H22N4O4S (343.4) Rf value: 0.45 (silica gel; dichloromethane/ethanol=4:1)

reactant | 4-chloro-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide | 4.6 mMol, 1.6 g | CN(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C1CCN(CC1)C | C13H18ClN3O4S
reactant | methylamine | 30 ml | CN | CH5N
solvent | water | about 40 ml | O | H2O
product | 4-Methylamino-3-nitrobenzenesulphonic acid-N-methyl-N-(1-methylpiperidin-4-yl)-amide | CN(S(=O)(=O)C1=CC(=C(C=C1)NC)[N+](=O)[O-])C1CCN(CC1)C | C14H22N4O4S
